US04292431
To a suspension of 1.88 g (0.01 mol) of 2-phenylimidazole-4-carboxylic acid in a mixture of 3 ml of ~37% formaldehyde and 3 ml of 1,4-dioxane is added 2.1 g (0.02 mol) of sodium carbonate, and the resultant mixture is heated at 60°-70° C. for 5 hours, with stirring. After completion of the reaction, 5 ml of water is added, and the mixture is allowed to stand for 2 hours, on cooling. The resultant solid is recovered by filtration and recrystallized from ethyl acetate and filtered to afford 2-phenyl-4-hydroxymethylimidazole as a solid, m.p.168°-170° C.

reactant | 2-phenylimidazole-4-carboxylic acid | 0.01 mol, 1.88 g | C1(=CC=CC=C1)C=1NC=C(N1)C(=O)O | C10H8N2O2
reactant | sodium carbonate | 0.02 mol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 5 ml | O | H2O
solvent | formaldehyde | 3 ml | C=O | CH2O
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-phenyl-4-hydroxymethylimidazole | C1(=CC=CC=C1)C=1NC=C(N1)CO | C10H10N2O
